US07608621B2
N-{[5-Hydroxy-3-oxo-2-(phenylmethyl)-6-(trifluoromethyl)-2,3-dihydro-4-pyridazinyl]carbonyl}glycine
Ethyl 5-hydroxy-3-oxo-2-(phenylmethyl)-6-(trifluoromethyl)-2,3-dihydro-4-pyridazinecarboxylate. Sodium hydride (0.040 g of a 60% oil suspension, 1.00 mmol) was added to a stirred solution of ethyl 5-hydroxy-3-oxo-6-(trifluoromethyl)-2,3-dihydro-4-pyridazinecarboxylate (0.083 g, 0.329 mmol) in dimethylformamide (1.5 mL) under nitrogen. After 10 min stirring at room temperature, the mixture was cooled in an ice bath and benzyl bromide (0.043 mL, 0.362 mmol) injected. The mixture was stirred for 3 h at 0° C. 0.1M aqueous hydrochloric acid (50 mL) was added and the mixture extracted with ethyl acetate. The extracts were washed with water and brine, then dried (MgSO4), evaporated under reduced pressure and the residue chromatographed (silica gel, 5-10% methanol dichloromethane) to give the title compound (0.050 g, 44%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.23 (t, J=6.95 Hz, 3H) 4.17 (q, J=7.07 Hz, 2H) 5.14 (s, 2H) 7.12-7.44 (m, 5H).

reactant | Ethyl 5-hydroxy-3-oxo-2-(phenylmethyl)-6-(trifluoromethyl)-2,3-dihydro-4-pyridazinecarboxylate | OC1=C(C(N(N=C1C(F)(F)F)CC1=CC=CC=C1)=O)C(=O)OCC | C15H13F3N2O4
reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl 5-hydroxy-3-oxo-6-(trifluoromethyl)-2,3-dihydro-4-pyridazinecarboxylate | 0.329 mmol, 0.083 g | OC1=C(C(NN=C1C(F)(F)F)=O)C(=O)OCC | C8H7F3N2O4
reactant | benzyl bromide | 0.362 mmol, 0.043 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 0.1M, 50 mL | Cl | ClH
reactant | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N-{[5-Hydroxy-3-oxo-2-(phenylmethyl)-6-(trifluoromethyl)-2,3-dihydro-4-pyridazinyl]carbonyl}glycine | 0.050 g, 44% | OC1=C(C(N(N=C1C(F)(F)F)CC1=CC=CC=C1)=O)C(=O)NCC(=O)O | C15H12F3N3O5
